US08304419B2
Step B: 4-chloro-5-[(ethyloxy)carbonyl]-3-methyl-1H-pyrrole-2-carboxylic acid
To a solution of ethyl 5-formyl-4-methyl-1H-pyrrole-2-carboxylate (0.40 g, 2.21 mmol) in t-BuOH (25 mL) was added 2-methylbutene as a 2M solution (38 mL, 76.0 mmol). In a separate flask sodium dihydrogen phosphate monohydrate (2.1 g, 15.2 mmol) and sodium chlorite (1.8 g, 19.9 mmol) were dissolved in water (25 mL). The aqueous solution was added to the alcoholic reaction mixture dropwise and stirred for 3 h. Additional sodium dihydrogen phosphate monohydrate (1.05 g, 7.73 mmol) and sodium chlorite (0.9 g, 9.95 mmol) dissolved in water (10 mL) were added and the reaction mixture stirred an additional 2 h. The solution was acidified with aqueous 5% HCl to a pH ˜4 and extracted with EtOAc (3×25 mL). The organic layers combined, dried over sodium sulfate, filtered and the solvent evaporated. Purification by column chromatography twice afforded 4-chloro-5-[(ethyloxy)carbonyl]-3-methyl-1H-pyrrole-2-carboxylic acid (0.10 g, 20%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.32 (br. s., 1H) 4.24 (q, 2H) 2.19 (s, 3H) 1.28 (t, 3H). MS: m/z 232.1 (M+1).

reactant | ethyl 5-formyl-4-methyl-1H-pyrrole-2-carboxylate | 2.21 mmol, 0.40 g | C(=O)C1=C(C=C(N1)C(=O)OCC)C | C9H11NO3
reactant | 2-methylbutene | CC(=C)CC | C5H10
reactant | sodium dihydrogen phosphate monohydrate | 15.2 mmol, 2.1 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 19.9 mmol, 1.8 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate monohydrate | 7.73 mmol, 1.05 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 9.95 mmol, 0.9 g | Cl(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | t-BuOH | 25 mL | CC(C)(C)O | C4H10O
solvent | water | 25 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 4-chloro-5-[(ethyloxy)carbonyl]-3-methyl-1H-pyrrole-2-carboxylic acid | ClC=1C(=C(NC1C(=O)OCC)C(=O)O)C | C9H10ClNO4
